US05013829
To a solution of 2-iodoadenosine (1.585 g, 4.03 mmol) and bis(acetonitrile)palladium chloride (0.053 g, 0.20 mmol) in DMF (20 ml) was added vinyltributyltin (1.24 ml, 4.23 mmol), and the mixture stirred at 100° C. for 1 h. The reaction mixture was cooled and filtered. The solvent was evaporated and the residue was purified through silica gel with chloroform and 10% methanol/chloroform to give 1.099 g (92%) of 2-vinyladenosine: 1H NMR (Me2SO-d6) δ3.66 (m, 2H), 3.98 (m, 1H), 4.16 (m, 1H), 4.65 (m, 1H), 5.18 (d, 1H), 5.38-5.62 (m, 3H), 5.89 (d, 1H), 6.41 (dd, 1H), 6.59 (dd, 1H), 7.27 (br.s, 2H), 8.32 (s, 1H); UV (EtOH) λmax 293 nm, 271 nm, 265 nm.

reactant | 2-iodoadenosine | 4.03 mmol, 1.585 g | IC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12IN5O4
reactant | vinyltributyltin | 4.23 mmol, 1.24 ml | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | bis(acetonitrile)palladium chloride | 0.20 mmol, 0.053 g | CC#N.CC#N.Cl[Pd]Cl
product | 2-vinyladenosine | 1.099 g, 92% | C(=C)C=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C12H15N5O4
